US08304419B2
Step A: 1,1-dimethylethyl 6-(methyloxy)-1-oxo-1,2,3,4-tetrahydro-9H-β-carboline-9-carboxylate
6-(Methyloxy)-2,3,4,9-tetrahydro-1H-β-carbolin-1-one (0.10 g, 0.45 mmol), Boc2O (0.1 g, 0.45 mmol), and DMAP (0.01 g, 0.08 mmol) were dissolved in THF (3.0 mL) and stirred overnight. The solvent was evaporated and the residue was purified by column chromatography (hexane/EtOAc) to afford the title compound (0.075 g, 51%) as a solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 7.83 (d, 1H), 7.79 (t, 1H), 7.20 (d, 1H), 7.07 (dd, 1H), 3.81 (s, 3H), 3.41-3.50 (m, 2H), 2.85 (t, 2H), 1.55 (s, 9H).

reactant | 6-(Methyloxy)-2,3,4,9-tetrahydro-1H-β-carbolin-1-one | 0.45 mmol, 0.10 g | COC=1C=C2C=3CCNC(C3NC2=CC1)=O | C12H12N2O2
reactant | Boc2O | 0.45 mmol, 0.1 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.08 mmol, 0.01 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl 6-(methyloxy)-1-oxo-1,2,3,4-tetrahydro-9H-β-carboline-9-carboxylate | 0.075 g, 51% | COC=1C=C2C=3CCNC(C3N(C2=CC1)C(=O)OC(C)(C)C)=O | C17H20N2O4
